US07470705B2
Step 8. Preparation of 7-[Acetyl-(3,5-bis-trifluoromethyl-benzyl)-amino]-5-ethyl-6,7-dihydro-5H-thieno [3,2-b]pyridine-4-carboxylic acid isopropyl ester
Inject acetic anhydride (0.250 ml, 2.65 mmol) dropwise to a solution of crude 7-(3,5-bis-trifluoromethyl-benzylamino)-5-ethyl-6,7-dihydro-5H-thieno[3,2-b]pyridine-4-carboxylic acid isopropyl ester (0.120 g, 0.243 mmol) and pyridine (0.250 ml, 3.10 mmol) in dichloromethane (1 ml) at room temperature. Stir the mixture at room temperature for 16 h. Evaporate the solvents and purify the resulting reside using silica gel column chromatography (gradient eluent, 0-35% ethyl acetate in hexane) to provide the title compound (0.0290 g, 22%). MS (ES+): 559 (M+Na); (ES−): 535 (M−H). cl Example 2

reactant | acetic anhydride | 2.65 mmol, 0.250 ml | C(C)(=O)OC(C)=O | C4H6O3
reactant | 7-(3,5-bis-trifluoromethyl-benzylamino)-5-ethyl-6,7-dihydro-5H-thieno[3,2-b]pyridine-4-carboxylic acid isopropyl ester | 0.243 mmol, 0.120 g | C(C)(C)OC(=O)N1C2=C(C(CC1CC)NCC1=CC(=CC(=C1)C(F)(F)F)C(F)(F)F)SC=C2 | C22H24F6N2O2S
reactant | pyridine | 3.10 mmol, 0.250 ml | N1=CC=CC=C1 | C5H5N
solvent | dichloromethane | 1 ml | ClCCl | CH2Cl2
product | 7-[Acetyl-(3,5-bis-trifluoromethyl-benzyl)-amino]-5-ethyl-6,7-dihydro-5H-thieno [3,2-b]pyridine-4-carboxylic acid isopropyl ester | 0.0290 g, 22% | C(C)(C)OC(=O)N1C2=C(C(CC1CC)N(CC1=CC(=CC(=C1)C(F)(F)F)C(F)(F)F)C(C)=O)SC=C2 | C24H26F6N2O3S
